US04002753
A mixture of 1.87 g (0.01 moles) 3-chloro-6-[N-(2-hydroxyethyl)-methylamino]-pyridazine and 2.08 g (0.02 moles) monocarbethoxyhydrazine is warmed up to 155° C and kept at this temperature for half an hour. The product is cooled and dissolved in water, alkalinized by addition of solid potassium carbonate and the aqueous solution saturated by adding sodium chloride. A flocky precipitate separates which is subsequently collected by filtration and crystallized from ethanol, to give with good yields 3-(2-carbethoxyhydrazino)-6-[N-(2-hydroxyethyl)methylamino] -pyridazine melting at 131°-133° C. I.R. Spectrum (mineral oil, cm-1); 3320-3080 (OH and NH), 1715 (C=O carbamate), 1500 (pyridazinic ring), 840 (two ortho aromatic hydrogens).

reactant | 3-chloro-6-[N-(2-hydroxyethyl)-methylamino]-pyridazine | 0.01 moles, 1.87 g | ClC=1N=NC(=CC1)N(CCO)C | C7H10ClN3O
reactant | monocarbethoxyhydrazine | 0.02 moles, 2.08 g | C(=O)(OCC)NN | C3H8N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | 3-(2-carbethoxyhydrazino)-6-[N-(2-hydroxyethyl)methylamino] -pyridazine | C(=O)(OCC)NNC=1N=NC(=CC1)N(CCO)C | C10H17N5O3
